US07691882B2
2-Amino-6-methyl-nicotinic acid ethyl ester
To a N-methylpyrrolidinone (20 mL) solution of 2-amino-6-chloro-nicotinic acid ethyl ester (2.00 g, 7.78 mmol) described in Manufacturing Example 170-1-1 were added tetramethyltin (1.62 mL, 11.7 mmol) and tetrakis(triphenylphosphine)palladium (0) (899 mg, 0.778 mmol), which was stirred under nitrogen atmosphere for 5 hours and 40 minutes at 130° C. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered, and the filtrate was concentrated under a reduced pressure. The residue thus obtained was purified by NH silica gel column chromatography (heptane:ethyl acetate=3:1), and then further purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (670 mg, 48%).

reactant | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
reactant | 2-amino-6-chloro-nicotinic acid ethyl ester | 7.78 mmol, 2.00 g | C(C)OC(C1=C(N=C(C=C1)Cl)N)=O | C8H9ClN2O2
reactant | tetramethyltin | 11.7 mmol, 1.62 mL | C[Sn](C)(C)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.778 mmol, 899 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 2-Amino-6-methyl-nicotinic acid ethyl ester | 670 mg, 48% | C(C)OC(C1=C(N=C(C=C1)C)N)=O | C9H12N2O2
